US05562984
Terephthalic acid was reacted with ethylene glycol to form bis-(2-hydroxyethyl) terephthalate and low oligomers thereof, in a standard direct esterification reaction. At the end of the direct esterification reaction 400 ppm of phosphoric acid stabiliser was added, followed by 500 ppm of antimony trioxide polycondensation catalyst and 500 ppm of "Irganox 1010" antioxidant. 0.3% of silica of particle size 4 μm, and 0.3% of titanium dioxide of particle size 0.2 μm were also added at this stage. A standard batch polycondensation reaction was performed until the intrinsic viscosity of the resultant polyethylene terephthalate was approximately 0.52. The polyethylene terephthalate was further polymerised by means of a batch solid phase polymerisation process, until the intrinsic viscosity (IV) of the polyethylene terephthalate was approximately 0.7 to 0.75. The solid phase polymerisation process utilised a fluidised bed, fluidised with nitrogen.

reactant | Terephthalic acid | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
solvent | ethylene glycol | C(CO)O | C2H6O2
product | bis-(2-hydroxyethyl) terephthalate | C(C1=CC=C(C(=O)OCCO)C=C1)(=O)OCCO | C12H14O6
